US06953570B2
4-(Diphenylamino)-4′-formylstilbene
Potassium tert-butoxide (0.044 mol, 44mL 1M solution in THF) was added to a mixture of terephthalaldehyde mono-(diethyl acetal) (Sigma-Aldrich) (9.98 g, 0.048 mol) and 4-(diphenylamino)benzyltributylphosphonium bromide (21.6 g, 0.040 mol) in anhydrous THF (200 mL) in a 500 mL round bottom flask equipped with a reflux condenser, addition funnel and nitrogen inlet. After the addition was complete, the mixture was refluxed for 2 hours, and then cooled to RT. Aqueous HCl (20 mL, 3M) was then added and the mixture was stirred an additional hour. The product was extracted with methylene chloride (3×100 mL) and the combined organic solution dried with MgSO4. The solvent was removed by rotovaporization and the crude product purified by silica gel column chromatography (1:1 hexane:methylene chloride) yielding the pure product as a bright yellow solid (13 g, 87%). 1H NMR δ: 7.02-7.85 (m, 18 Ar—H, 2 vinyl H), 9.96 (s, 1H, CHO).

reactant | Potassium tert-butoxide | 0.044 mol, 1M, 44mL | CC(C)([O-])C.[K+]
reactant | terephthalaldehyde mono-(diethyl acetal) | 0.048 mol, 9.98 g | CCOC(C1=CC=C(C=C1)C=O)OCC | C12H16O3
reactant | 4-(diphenylamino)benzyltributylphosphonium bromide | 0.040 mol, 21.6 g | [Br-].C1(=CC=CC=C1)N(C1=CC=C(C[P+](CCCC)(CCCC)CCCC)C=C1)C1=CC=CC=C1
reactant | HCl | 3M, 20 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-(Diphenylamino)-4′-formylstilbene | 13 g, 87% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=O)C1=CC=CC=C1 | C27H21NO
